US07884207B2
Under a nitrogen atmosphere, a mixture of tert-Butyl {4-[(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]tetrahydropyran-4-yl}carbamate (3.0 g, prepared according to the general methods of Parts A through F of Example 54 using tetrahydro-4H-pyran-4-one in lieu of cyclohexanone in Part A), hydrochloric acid (12.2 mL of 2.8 M in ethanol), and ethanol (18 mL) was heated at reflux for 4 hours. The reaction mixture was allowed to cool to ambient temperature and was then concentrated under reduced pressure. The residue was combined with isopropanol (100 mL). A solid was isolated by filtration to provide 2.56 g of 4-[(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]tetrahydropyran-4-amine as a tan solid.

reactant | tert-Butyl {4-[(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]tetrahydropyran-4-yl}carbamate | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCOCC1)NC(OC(C)(C)C)=O | C24H32N4O4
reactant | tetrahydro-4H-pyran-4-one | O1CCC(CC1)=O | C5H8O2
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | hydrochloric acid | 2.8 M, 12.2 mL | Cl | ClH
solvent | ethanol | 18 mL | C(C)O | C2H6O
product | 4-[(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]tetrahydropyran-4-amine | 2.56 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCOCC1)N | C19H24N4O2
